US07728144B2
Biphenyl-2-ylcarbamic Acid 1-[2-(4-Formylphenylcarbamoyl)ethyl]piperidin-4-yl Ester
A mixture of biphenyl-2-ylcarbamic acid 1-[2-(4-aminomethylphenylcarbamoyl) ethyl]piperidin-4-yl ester (1 g, 2.7 mmol; prepared as described in Preparation 14), 4-aminobenzyl alcohol (498 mg, 4.05 mmol), HATU (1.54 g, 4.05 mmol) and DIPEA (1.41 mL, 8.1 mmol) in DCM (14 mL) was stirred at room temperature for 2 hours. The reaction mixture was diluted with 100 mL of DCM and washed first with a 1:3 mixture of 1N HCl/water (100 mL), then brine (100 mL). The organic layer was dried over MgSO4, filtered and concentrated. The residue was dissolved in DCM (100 mL) and the solution was cooled to −5° C. DIPEA (1.1 mL, 6.33 mmol) and DMSO (1.5 mL, 21.1 mmol) were added to the solution, followed by sulfur trioxide pyridine complex (1 g, 6.33 mmol). The reaction mixture was stirred at 0° C. for 1 hour then washed with a saturated solution of sodium bicarbonate (100 mL) and brine (100 mL). The organic layer was dried over MgSO4, filtered and concentrated to give 0.84 g of the title intermediate (66% yield) as an oil.

reactant | biphenyl-2-ylcarbamic acid 1-[2-(4-aminomethylphenylcarbamoyl) ethyl]piperidin-4-yl ester | 2.7 mmol, 1 g | NCC1=CC=C(C=C1)NC(=O)CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O | C28H32N4O3
reactant | 4-aminobenzyl alcohol | 4.05 mmol, 498 mg | NC1=CC=C(CO)C=C1 | C7H9NO
reactant | HATU | 4.05 mmol, 1.54 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 8.1 mmol, 1.41 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | DIPEA | 6.33 mmol, 1.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | DMSO | 21.1 mmol, 1.5 mL | CS(=O)C | C2H6OS
solvent | DCM | 14 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | Biphenyl-2-ylcarbamic Acid 1-[2-(4-Formylphenylcarbamoyl)ethyl]piperidin-4-yl Ester | 0.84 g, 66% yield | C(=O)C1=CC=C(C=C1)NC(=O)CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O | C28H29N3O4
